* Z:\mnt\design.r\spice\examples\1109-5.asc
V1 IN 0 3 Rser=0.1
C1 OUT 0 22µ Rser=0.02
D1 N001 OUT MBRS140
L1 IN N001 33µ Rser=0.02 Rpar=5000
XU1 IN MP_01 N001 0 MP_02 MP_03 N002 OUT LT1109 top=250K bot=83K
Rload OUT 0 50
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 3m startup
.lib LT1109.sub
.backanno
.end
